US05075313
To a solution of 3-(5-methoxyindol-3-yl)-N-(2-carboxyphenyl)propionamide (4.0 g, 11.8 mmol) in 50 ml of THF at room temperature was added 1,1-carbonyldiimidazole (1.92 g, 11.8 mmol). The reaction mixture was stirred for one hour after which aniline hydrochloride (3.06 g, 23.6 mmol) and 25 ml of dimethylformamide were added. The reaction mixture was stirred at reflux under a drying tube for two days, allowed to cool, and concentrated in vacuo to dryness. The residue was partitioned between lN hydrochloric acid and ethyl acetate. The organic layer was washed (water, lN sodium hydroxide, and brine), dried over anhydrous sodium sulfate, and concentrated in vacuo to dryness. Crystallization of the product from ethyl acetate/trace methanol provided 1.86 g of 2-[2-(5-methoxyindol-3-yl)-ethyl]-3-phenyl-4-(3H)quinazolinone as a white powder: mp 220°-221° C.; EIMS: 395 (M+)

reactant | 3-(5-methoxyindol-3-yl)-N-(2-carboxyphenyl)propionamide | 11.8 mmol, 4.0 g | COC=1C=C2C(=CNC2=CC1)CCC(=O)NC1=C(C=CC=C1)C(=O)O | C19H18N2O4
reactant | aniline hydrochloride | 23.6 mmol, 3.06 g | Cl.NC1=CC=CC=C1
reactant | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 2-[2-(5-methoxyindol-3-yl)-ethyl]-3-phenyl-4-(3H)quinazolinone | 1.86 g | COC=1C=C2C(=CNC2=CC1)CCC1=NC2=CC=CC=C2C(N1C1=CC=CC=C1)=O | C25H21N3O2
